US07452894B2
6-(2-Furyl)-1H-purine-2-amine (Example 11)
A solution of N-(3,4-dimethoxybenzyl)-6-(2-furyl)-1H-purine-2-amine (194 mg, 0.55 mmol) in TFA (1 mL) was heated at 60° C. for 30 min, poured into water, extracted with EtOAc and the combined organic phase was dried (MgSO4), concentrated in vacuo and purified by chromatography (SiO2; 5% MeOH in EtOAc). The resulting yellow solid was dissolved in MeOH, treated with HCl (1-M in Et2O) and filtered to give the title compound (75 mg, 57%) as a yellow solid.

reactant | N-(3,4-dimethoxybenzyl)-6-(2-furyl)-1H-purine-2-amine | 0.55 mmol, 194 mg | COC=1C=C(CNC=2NC(=C3N=CN=C3N2)C=2OC=CC2)C=CC1OC | C18H17N5O3
reactant | water | O | H2O
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-(2-Furyl)-1H-purine-2-amine | 75 mg, 57% | O1C(=CC=C1)C1=C2N=CN=C2N=C(N1)N | C9H7N5O
